US05721255
A. 4-Cyclopentyloxy-N-methanesulfonylaniline
Under N2 in a flame-dried flask, a mixture of 4-cyclopentyloxyaniline (1.0 g, 5.64 mmol) in 25 mL of dry CH2Cl2 was treated with triethylamine (1.3 mL, 9.38 mmol) and cooled to 0° C. A solution of recrystallized methanesulfonic anhydride (1.5 g, 8.62 mmol) in 10 mL of dry CH2Cl2 was added dropwise and the reaction was stirred for 1.5 hours. The reaction mixture was then poured into 100 mL of saturated aqueous NaHCO3 and extracted with CH2Cl2 (3×50 mL). The combined organics were dried over MgSO4, evaporated in vacuo to a dark grey solid and flash chromatographed on silica gel, eluting with hexanes:EtOAc (80:20), to produce the pure intermediate compound, 0.8 g (56%), m.p. 140°-142° C.

reactant | 4-cyclopentyloxyaniline | 5.64 mmol, 1.0 g | C1(CCCC1)OC1=CC=C(N)C=C1 | C11H15NO
reactant | triethylamine | 9.38 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 8.62 mmol, 1.5 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyclopentyloxy-N-methanesulfonylaniline | C1(CCCC1)OC1=CC=C(NS(=O)(=O)C)C=C1 | C12H17NO3S
